** sch_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/tr_1um_username.sch
.subckt tr_1um_ P1 P2 fujimoto_kuniaki P3 P4 P5 P6 P7 VSS VDD P15 P14 P13 P12 P11 P10 P9
*.PININFO P1:B P2:B P3:B P4:B P5:B P6:B P7:B VSS:B VDD:B P15:B P14:B P13:B P12:B P11:B P10:B P9:B
x1 P1 VDD P2 P15 P14 P3 P4 P13 P5 P12 P6 P11 P10 P7 P9 VSS OSS_FRAME
.ends

* expanding   symbol:  OSS_FRAME.sym # of pins=16
** sym_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/OSS_FRAME.sym
** sch_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/OSS_FRAME.sch
.subckt OSS_FRAME P1 VDD P2 P15 P14 P3 P4 P13 P5 P12 P6 P11 P10 P7 P9 VSS
*.PININFO P1:B P2:B P3:B P4:B P5:B P6:B P7:B VSS:B VDD:B P15:B P14:B P13:B P12:B P11:B P10:B P9:B
x1 VDD P1 VSS OSS_ESD_5V_ANA
x2 VDD VSS OSS_ESD_5V_VDD
x3 VDD VSS OSS_ESD_5V_V
x4 VDD P2 VSS OSS_ESD_5V_ANA
x5 VDD P3 VSS OSS_ESD_5V_ANA
x6 VDD P4 VSS OSS_ESD_5V_ANA
x7 VDD P5 VSS OSS_ESD_5V_ANA
x8 VDD P6 VSS OSS_ESD_5V_ANA
x9 VDD P7 VSS OSS_ESD_5V_ANA
x10 VDD P15 VSS OSS_ESD_5V_ANA
x11 VDD P14 VSS OSS_ESD_5V_ANA
x12 VDD P13 VSS OSS_ESD_5V_ANA
x13 VDD P12 VSS OSS_ESD_5V_ANA
x14 VDD P11 VSS OSS_ESD_5V_ANA
x15 VDD P10 VSS OSS_ESD_5V_ANA
x16 VDD P9 VSS OSS_ESD_5V_ANA
.ends


* expanding   symbol:  OSS_ESD_5V_ANA.sym # of pins=4
** sym_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/OSS_ESD_5V_ANA.sym
** sch_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/OSS_ESD_5V_ANA.sch
.subckt OSS_ESD_5V_ANA VDD PAD VSS
*.PININFO PAD:B VDD:B VSS:B
MXM1 PAD VDD VDD VDD PMOS w=500u l=2u
MXM2 PAD VSS VSS VSS NMOSE w=500u l=2u
.ends


* expanding   symbol:  OSS_ESD_5V_VDD.sym # of pins=3
** sym_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/OSS_ESD_5V_VDD.sym
** sch_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/OSS_ESD_5V_VDD.sch
.subckt OSS_ESD_5V_VDD VDD VSS
*.PININFO VDD:B VSS:B
MXM1 VDD VDD VDD VDD PMOS w=500u l=2u
MXM2 VDD VSS VSS VSS NMOSE w=500u l=2u
.ends


* expanding   symbol:  OSS_ESD_5V_VSS.sym # of pins=3
** sym_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/OSS_ESD_5V_VSS.sym
** sch_path: /Users/okamura/Dropbox/91_OpenPDK/WorkDir/OSS_ESD_5V_VSS.sch
.subckt OSS_ESD_5V_VSS VDD VSS
*.PININFO VSS:B VDD:B
MXM1 VSS VDD VDD VDD PMOS w=500u l=2u
MXM2 VSS VSS VSS VSS NMOSE w=500u l=2u
.ends

